US06410736B1
In the same manner, reaction of 12.06 g of 4-bromo-2-fluorobenzaldehyde and 9.68 g of 3,4-dichlorophenol gave 9.64 g of 4-bromo-2-(3,4-dichlorophenoxy)-benzaldehyde as pale yellow crystals.

reactant | 4-bromo-2-fluorobenzaldehyde | 12.06 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 3,4-dichlorophenol | 9.68 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
product | 4-bromo-2-(3,4-dichlorophenoxy)-benzaldehyde | 9.64 g | BrC1=CC(=C(C=O)C=C1)OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O2
